Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
LP and EMG.

 
History of Present Illness:
Mr. ___ is ___ w/ hx of arthritis of lower spine, herniated 
C5+ disc(s) causing pain in neck/shoulders/wrists, neuromas of 
feet ___ hx), who presents with ___ hx of "numbness" of his 
feet that ascends to his abdomen referred for further evaluation 
of a dx of transverse myelitis.  

The patient was in his normal state of health in last week of 
___, when he experienced a feeling of tightness in his 
abdomen without pain or nausea. 3 days later, he noticed that 
his feet felt numb and that the numbness felt like it was 
spreading up his legs to his abdomen.  He also felt mild 
weakness in this distribution.  He presented to ___ 
___, where he was
initially diagnosed with GBS.  He was treated with IVIG for 5 
days without relief.  He was discharged home and followed up 
with a local neurologist over the summer. His symptoms were 
unchanged and he was referred to continue following with 
neurology closer to home in ___.  In the early ___ he 
saw a ___ neurologist who did an MRI of his thoracic spine 
that demonstrated a "2cm lesion around his spinal cord." He was 
diagnosed with transverse myelitis versus MS. ___ particular 
neurologist was difficult to get a hold of so he self-referred 
himself to yet a thurd ___ Neurologist. He was seen in 
___ and a "wait and see" approach was taken.  Again
through a self-referral and friend of the family he came to see 
Drs. ___ at ___ in mid ___.  A plan 
for admission with further work-up was made. 
 
With respect to his symptoms: He reports "simultaneous" 
sensation of pain and numbness in his feet - 
"squeezing"/"pressure" in ankles, "dull ache" in toes and balls 
of feet that's a ___ but increases to ___ when he walks.  
He has numbness throughout his legs that is greatest distally 
and improves proximally. It is symmetric with the exception of a 
small area along his left
medial thigh that is more numb than his right. He has a "band of 
pain" along his abdomen up to a ___ above his umbilicus 
("squeezing"/"crampy" pain that's ___, less noticeable on his 
back than his front, and he states it feels like he's lost all 
abdominal muscle strength in the past year).  He explains that 
the numbness does not alter his perception of light touch, but
rather that it feels as though there is "cotton stuffed under 
his skin", or as if there is a sensation of his legs having 
"gone to sleep with a pins-and-needles sensation".  Walking has 
become difficult for him because of the pain, although he is 
uncertain whether to attribute all the pain in the balls of the 
feet to transverse myelitis of to neuromas.  As the duration of 
walking
increases the pain worsens and he increasingly feels as though 
his feet are "in a vice." 
 
He reports cramping in his calves on usage, which he relieves 
with pressure applied to the ipsilateral dorsum of the foot. He 
can stand, climb stairs, and bike -- the lattermost is the least 
limited by pain.  He reports that his balance is good, and he 
has not fallen at all.  He does feel unsteady at times, however, 
due more to the numbness and subjective, general weakness in his 
legs.
 
Over the past year he states that his symptoms have been overall 
constant, without improvement or worsening.  Acutely, sitting 
with his feet up and scotch are the most helpful in relieving 
his bilateral foot pain, whereas walking worsens the pain. He 
states that 600mg (4x/d) gabapentin have not helped to relieve 
his symptoms (recently increased from 3x/d; he reports missing 1 
dose routinely every ___ days).    

 
Past Medical History:
Hospitalizations/Surgeries/Serious Injuries: 
-L rotator cuff surgery (___)
-Hemorrhoid surgery (___)
-MVA at ___ y/o with head injury (he fell out of a slow-moving
vehicle and lacerated his right cranium; he is unsure if 
parietal
lobe lesion he reports seen on MRI is related)
- Psych: depression which he reports affected him starting in 
his
teens but was only diagnosed in ___. He was treated with
multiple antidepressants, which did not seem to help.  Talk
therapy was the most helpful, and he states he is a "depression
success story"
#Arthritis: lower spine and L ___ finger.  Sometimes tries
Alleive to control pain, but he reports that this does not help.
He has 4+ rounds of cortisone shots in his neck and shoulders 
but
they have provided only minimal relief.
#C5 disc herniation ___ hx): causing pain in
neck/shoulders/wrists; believes there may be herniation of other
discs.
#L rotator cuff (surgery in ___: continued limited mobility 
and
pain  
#Neuromas of feet ___ hx): he is uncertain if these are
contributing to the pain he perceives in his feet on walking.
#Presyncope: he has blacked out a few times without LOC, on
average ~2x/yr since initially blacking out in ___ on a trip to
___ (there he was worked up for cardiac etiologies of
presyncope, but none were found). 
#Vertigo at elevated heights ___ yr hx): the surroundings spin,
relieved when steps away from bridge, etc.
#Prostatitis: ___ ago, was treated with antibiotics.
#Eczema on palms (txs with eucerin multiple times daily) 
#Snusitis: ___ yrs ago, treated.
#Seborrheic keratosis: on L first finger (frozen last year).

 
Social History:
___
Family History:
Mom: hx of brain surgery of known type or etiology,
cholecystectomy, HTN, and RA, died of CHF at ___ y/o
Dad: prostate cancer, pacemaker, died of TB at ___ y/o
Siblings: ___ y/o brother has hx of PE, pains of unknown origin,
abuse drugs and alcohol; ___ y/o brother is healthy; estranged
from older brother (health unknown)
Children: 2 daughters ___ y/o had benign breast mass identified
last year; ___ y/o healthy)

 
Physical Exam:
General: 
Patient is well-appearing, appears his stated age, in NAD
Head: Skull atraumatic and normocephalic.
Eyes: conjunctiva clear/pink, sclera anicteric
Nose: pink nasal mucosa with no sinus tenderness
Mouth/Throat: pink oral mucosa with moist mucus membranes, no
oral lesions, good dentition
Neck: Supple, thyroid palpable without gross enlargement or
nodules, no bruits were auscultated
Lymph Nodes: no cervical, auricular, or supraclavicular LAD
Chest: Thorax is symmetric with good expansion, breath sounds 
CTA
bilaterally both anteriorly and posteriorly, no adventitious 
sounds
Cardio: normal S1 and S2, no murmurs, rubs or gallops
Abdomen: Normaoactive bowel sounds, soft, nontender, somewhat 
protuberant abdomen without palpable massess or 
hepatosplenomegaly (measures 9cm to percussion), no CVA 
tenderness
MSK: no evidence of swelling and deformity
Extremities: WWP without clubbing, cyanosis, or edema. Dorsalis 
pedis pulses bilaterally.
Skin: Skin warm except feet cold to touch, bluish-purple 
pigmented patch on R inner ankle and patch of rash on L inner 
ankle
 
Neuro:
Mental Status: Patient is alert and oriented to person, place, 
and time, relaxed, and cooperative. Days of week backwards 
without difficulty. Fluent speech without paraphasic errors; 
repetition intact, naming intact to high and low frequency 
items, follows simple and complex commands without left-right 
confusion. Registers ___ words and recalls ___ at 5 minutes. 
Mimics
tooth-brushing with either hand.

Cranial Nerves:
I - not assessed since no reported recent change in taste/smell
II, III - visual acuity ___ in R and L eye, visual fields full
to confrontation, pupils 3>2 mm bilaterally to light and
accommodation
III, IV, VI - EOM intact, no ptosis
V - sensation intact to light touch and pinprick/temp in all 3
divisions of CN5, strength intact by jaw clench
VII - facial strength intact and symmetric without droop
IX, X - voice normal, palate elevates midline
XI - SCM and trapezius strength ___ bilaterally
XII - tongue protrudes midline without atrophy or fasciculations

Strength: Normal tone and bulk. No pronator drift.  UE is ___ at 
deltoid, biceps, triceps, wrist extension, finger extension and 
grip, and ___ in ___ at quads, hamstrings, tibialis anterior, 
___, and gastrocnemius. Patient can squat down and stand 
unassisted.  Reflexes: 2 at biceps, triceps, and ___. 1 at B/l 
patella, 2 at ankles, Toes are mute. 
Sensation: Intact in UE. In LEs: decreased light touch, 
pinprick, temp, and vibration in distal ___ with gradual 
improvement in sensation below knee to normal in thighs. 
Pinprick also felt diminished on L hand. 
Gait: Slow, slightly wide based. Mild external rotation of right 
foot. Can tandem gait. 
Coordination/Cerebellar: intact finger-nose, heel-shin, rapid 
finger tap. No dysdiadochokinesia. No dysmetria.
Negative Rhomberg.

Discharge Physical Exam: Unchanged from admission, as documented 
above.  
 
Pertinent Results:
___ 06:00PM   GLUCOSE-97 UREA N-23* CREAT-0.9 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-27 ANION GAP-15
___ 06:00PM   estGFR-Using this
___ 06:00PM   CALCIUM-9.4 PHOSPHATE-3.5 MAGNESIUM-2.2
___ 06:00PM   WBC-5.1 RBC-4.71 HGB-14.6 HCT-44.1 MCV-94 
MCH-31.0 MCHC-33.2 RDW-12.7
___ 06:00PM   PLT COUNT-214
___ 01:20PM BLOOD dsDNA-NEGATIVE
___ 01:20PM BLOOD RheuFac-9
___ 06:00PM BLOOD Calcium-9.4 Phos-3.5 Mg-2.2

MRI Spine: IMPRESSION: 
1.  Focus of increased signal within the spinal cord at C3 level 
without 
enhancement.  Another focus of signal abnormality is seen within 
the spinal  cord at T8 level as on the previous outside MRI of 
___.  No enhancement seen in these foci.  No other focal 
abnormalities within the cervical or thoracic spinal cord up to 
conus level. 
2.  Degenerative changes predominantly in the cervical region 
with moderate spinal stenosis at C5-6 level with a disc 
herniation indenting and slightly extrinsically compressing the 
spinal cord at this level.  Degenerative changes at other levels 
in the cervical region as described above. 
3.  Mild degenerative changes in the thoracic and lumbar region. 


MRI Brain: IMPRESSION:  Except for a faint area of increased 
signal in the right periventricular white matter of nonspecific 
nature no other significant abnormalities are seen.  No abnormal 
enhancement is seen.  No mass effect or hydrocephalus. 

EMG: IMPRESSION: Abnormal study. The electrophysiologic findings 
suggest a mild ulnar neuropathy at the left elbow. The findings 
are also consistent with a left C7-8 radiculopathy. A left upper 
lumbar radiculopathy cannot be entirely excluded. There is no 
clear evidence for a generalized polyneuropathy affecting large 
diameter nerve fibers. 

CT Chest and Abd: IMPRESSION: 
1.  No evidence of lymphadenopathy or evidence of malignancy 
2.  3-mm perifissural and 5-mm fissural nodules on the right, 
for which 
followup is recommended in one year's time unless previous 
outside studies are  available to demonstrate stability. 

 
Brief Hospital Course:
Mr. ___ is a ___, with a hx of spinal disease at baseline 
with arthritis of the lower spine and herniated cervical 
disc(s), who was admitted for further workup of ___ hx of acute 
onset, static paresthesias and pain in lower extremities through 
T8-9 area that was previously diagnosed as transverse myelitis. 
This workup included a repeat MR of head and spine, lumbar 
puncture, and an EMG.  

The patient was admitted to the Neurology service for further 
diagnosis and work-up. The MR of the head (___) 
demonstrated a nonspecific, faint area of increased signal in 
the right periventricular white matter. No other abnormalities 
were seen. The MR of the cervical, thoracic, and lumbar spine 
(___) demonstrated 2 foci of increased signal intensity 
in the spinal cord: 1 at the C3 level and 1 at the T8 level. The 
latter abnormality at T8 appeared with slight atrophy within the 
spinal cord and is consistent with the findings from Mr. 
___ MR from ___. Degnerative changes seen in 
thoracic and lumbar regions (from L1-2 through L5-S1 levels) as 
well as disc disease at C3-4 and C5-6.

The CSF analysis from the lumbar puncture (___) was 
generally normal. Labs included. The EMG on (___) was 
nonspecific (see results). 

Mr. ___ was discharged in stable conidtion. He will return 
home with regular pain control (600 mg 4x/d gabapentin and 
Alleive PRN). Plan has been made for a nerve biopsy in the next 
couple of weeks as an outpatient. This has been arranged with 
neurosurgery.
 
Medications on Admission:
Gabapentin 600mg QID
Aleve, occasionally PRN for pain in UEs (does not help)

 
Discharge Medications:
1. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO QID (4 
times a day).  
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
3. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Gait problem, 2. Lower extremity paresthesia, 3. Spinal 
lesion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neuro Exam: Normal mental status, cranial nerves, and upper 
extremity exams. Lower extremities have decreased sensation to 
pain, light touch and temp. He is able to walk unassisted, if 
done slowly. 

 
Discharge Instructions:
Mr. ___, You were admitted for further work-up of your lower 
extremity numbness and pain. You recieved a lumbar puncture, 
MRI, and EMG studies that did not find a clear etiology of the 
problem. You are being referred to Neurosurgery as an outpatient 
for a nerve biospy. You should continue taking all your regular 
home medications, which were not changed during this 
hospitalization.  We also added Duloxetine which we hope will 
help with your pain.  
 
Followup Instructions:
___